* C:\Users\thoma\Documents\GitHub\Projet5ArobotInfirmier\LTSpice\spice capteurs\Capteurs V1\capteurs.asc
D§R N007 0 D
D§iR N008 0 D
R1 N002 N007 100
R2 N002 N008 330
V1 N002 0 3.3
V2 3.3 0 3.3
R6 N001 N004 100
R7 N001 N005 60
V3 N001 0 3.3
V4 N004 0 1.3
V5 N005 0 2.1
R4 Vs N006 14k
XU2 N009 N006 3.3 0 Vs level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 0 N006 1k
V6 12 0 12
I1 0 N003 SINE(750n 750n 2)
XU1 0 N003 3.3 P001 VS2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 VS2 N003 10
V8 0 P001 10
I2 3.3 N010 SINE(750n 750n 2)
R9 N010 0 100k
XU3 NC_01 NC_02 3.3 0 NC_03 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
I3 3.3 N009 SINE(750n 750n 2)
R8 N009 0 100k
.model D D
.lib C:\Users\thoma\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3
* On choisis les Résistance pour avoir 20mA dans chaque diode
.lib UniversalOpamps2.sub
.backanno
.end
