* C:\Users\thoma\Documents\GitHub\Projet5ArobotInfirmier\spice alimentation\buckV1.asc
V1 Vcc 0 36
M1 Vcc cmd N001 N001 BSP89
D1 0 N001 1N4148
L1 N001 sortie 100m
C1 sortie 0 1µ
R1 sortie 0 100
XU1 comp sortie Vcc 0 cmd level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 comp 0 10
.model D D
.lib C:\Users\thoma\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\thoma\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.lib UniversalOpamps2.sub
.backanno
.end
